US08895544B2
6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-3-iodo-1H-indazole
To a solution of 6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazole (Preparation 15, 1.46 g, 5.4 mmol) in DMF (20 mL) was added KOH (1.14 g, 20.3 mmol) and the mixture was stirred for 5 minutes. A solution of iodine (2.75 g, 10.8 mmol) in DMF (5 mL) was slowly added and the reaction was stirred at room temperature for 30 minutes. The reaction mixture was diluted with water (100 mL) and extracted with EtOAc (100 mL). The organic layer was washed with water (2×100 mL) and saturated sodium metabisulfite aqueous solution (100 mL), dried over MgSO4 and concentrated in vacuo to furnish the title compound (1.94 g) in a 91% yield.

reactant | 6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazole | 5.4 mmol, 1.46 g | C(C)C1=C(C=C(C(=C1)OC)F)C1=CC=C2C=NNC2=C1 | C16H15FN2O
reactant | KOH | 20.3 mmol, 1.14 g | [OH-].[K+]
reactant | iodine | 10.8 mmol, 2.75 g | II | I2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-3-iodo-1H-indazole | 1.94 g, 91% yield | C(C)C1=C(C=C(C(=C1)OC)F)C1=CC=C2C(=NNC2=C1)I | C16H14FIN2O
